US07304081B2
Step 1. Ethyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate
Sodium hydride (60% in mineral oil, 0.60 g, 15 mmol) was added to a solution of ethyl (6-chloropyridin-3-yl)acetate (1.0 g, 0.0050 mol) in N,N-dimethylformamide (10 mL, 0.1 mol) at rt under an atmosphere of nitrogen. After 30 minutes, 1-bromo-2-chloro-ethane (0.84 mL, 0.010 mol) was added to the mixture at 0° C. The reaction mixture was stirred at 35° C. for 4 hours and then at room temperature overnight. The mixture was poured into a mixture of ice-water (50 ml) and EtOAc (50 ml) and the resulting mixture was acidified (to pH 2) by slow addition of 6 N HCl. The layers were separated and the organic layer was washed successively with water and brine, dried over MgSO4 and concentrated. The residue was chromatographed by combiflash (ethyl acetate in hexanes: 80%, on silica gel) to afford the desired product. LC/MS: 226.0 and 228.0 (M+H+).

reactant | Sodium hydride | 15 mmol, 0.60 g | [H-].[Na+]
reactant | ethyl (6-chloropyridin-3-yl)acetate | 0.0050 mol, 1.0 g | ClC1=CC=C(C=N1)CC(=O)OCC | C9H10ClNO2
reactant | N,N-dimethylformamide | 0.1 mol, 10 mL | CN(C=O)C | C3H7NO
reactant | 1-bromo-2-chloro-ethane | 0.010 mol, 0.84 mL | BrCCCl | C2H4BrCl
reactant | HCl | 6 N | Cl | ClH
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | Ethyl 1-(6-chloropyridin-3-yl)cyclopropanecarboxylate | ClC1=CC=C(C=N1)C1(CC1)C(=O)OCC | C11H12ClNO2
